US08476434B2
Synthesis of 3-((3-(5-Fluoro-2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)amino)-4-methyl-N-(3-(1-methylethyl)phenyl)benzamide
[4-(2-Chloro-pyridin-3-yl)-5-fluoro-pyrimidin-2-yl]-methyl-amine (62 mg, 0.26 mmol), 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide (84 mg, 0.31 mmol), Pd(OAc)2 (6 mg, 0.03 mmol), rac-BINAP (16 mg, 0.03 mmol) and K2CO3 (719 mg, 5.2 mmol) in toluene (3.0 mL) were reacted overnight at 130° C. The reaction was diluted with water and extracted with EtOAc. The organic layer was dried over anhydrous Na2SO4, filter, concentrated and purified by reverse-phase HPLC (Gilson, acidic mobile phase) yielding the title compound. MS m/z=471 [M+1]+. Calc'd for C27H27FN6O: 470.55.

reactant | [4-(2-Chloro-pyridin-3-yl)-5-fluoro-pyrimidin-2-yl]-methyl-amine | 0.26 mmol, 62 mg | ClC1=NC=CC=C1C1=NC(=NC=C1F)NC | C10H8ClFN4
reactant | 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide | 0.31 mmol, 84 mg | NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C17H20N2O
reactant | rac-BINAP | 0.03 mmol, 16 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 5.2 mmol, 719 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.03 mmol, 6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-((3-(5-Fluoro-2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)amino)-4-methyl-N-(3-(1-methylethyl)phenyl)benzamide | FC=1C(=NC(=NC1)NC)C=1C(=NC=CC1)NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C27H27FN6O
